US08497281B2
Step 4: cis-4-(1H-benzoimidazole-5-carbonyl)-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline-10-carboxylic acid methyl ester
The title compound is prepared from 1H-benzoimidazole-5-carboxylic acid and cis-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline-10-carboxylic acid methyl ester following a procedure analogous to that described in Example 1. Yield: 43% of theory; TLC: rf=0.30 (silica gel, CH2Cl2/MeOH/32% aqueous NH3 90:10:1); Mass spectrum (ESI+): m/z=390 [M+H]+.

reactant | 1H-benzoimidazole-5-carboxylic acid | N1C=NC2=C1C=CC(=C2)C(=O)O | C8H6N2O2
reactant | cis-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline-10-carboxylic acid methyl ester | COC(=O)C1=CC=CC2=C1[C@H]1CCCN[C@H]1CC2 | C15H19NO2
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | cis-4-(1H-benzoimidazole-5-carbonyl)-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline-10-carboxylic acid methyl ester | Yield: 43% | COC(=O)C1=CC=CC2=C1[C@H]1CCCN([C@H]1CC2)C(=O)C2=CC1=C(NC=N1)C=C2 | C23H23N3O3
